US09376441B2
To solution of 2-bromopyridin-4-ol (0.4 g, 2 mmol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazole (0.99 g, 3 mmol) in Dioxane/H2O (3 ml/1.5 ml) was added PEPSI-IPr catalyst (0.078 g, 0.115 mmol) and followed by the addition of Cs2CO3 (1.65 g, 5 mmol). The reaction mixture was stirred at 90° C. for 30 minutes. The reaction mixture was diluted with EtOAc and washed with HCl (1N). Two phases were separated and the aqueous phase was extracted with EtOAc (3×). Organic phase were combined and concentrated down under vacuo. The residue was purified by silicone gel column. And 2-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-4-yl)pyridin-4-ol was obtained (0.61 g, 91.1%). LCMS-ESI+ (m/z): [M+H]+ calcd. for C26H30N5O3: 292.42; found: 292.11.

reactant | 2-bromopyridin-4-ol | 2 mmol, 0.4 g | BrC1=NC=CC(=C1)O | C5H4BrNO
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazole | 3 mmol, 0.99 g | CC1(OB(OC1(C)C)C=1C=NN(C1)COCC[Si](C)(C)C)C | C15H29BN2O3Si
reactant | Cs2CO3 | 5 mmol, 1.65 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | Dioxane H2O | 3 ml | O1CCOCC1.O
catalyst | IPr | 0.115 mmol, 0.078 g | ICCC | C3H7I
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-4-yl)pyridin-4-ol | C[Si](CCOCN1N=CC(=C1)C1=NC=CC(=C1)O)(C)C | C14H21N3O2Si
